.suckt s_2_3 ibias in1 in2 out gnd! vdd!
c1 net1 out
m1 net2 net3 gnd! gnd! nmos
m2 net4 net3 gnd! gnd! nmos
m3 net3 ibias vdd! vdd! pmos
m4 net5 net2 net6 net6 pmos
m5 net1 net2 net7 net7 pmos
m6 net5 net5 net8 net8 nmos
m7 net8 net8 gnd! gnd! nmos
m8 net1 net5 net9 net9 nmos
m9 net9 net8 gnd! gnd! nmos
m10 net10 ibias vdd! vdd! pmos
m11 net6 in1 net10 net10 pmos
m12 net7 in2 net10 net10 pmos
c2 out gnd!
m13 out net1 gnd! gnd! nmos
m14 out net4 net11 net11 pmos
m15 net11 ibias vdd! vdd! pmos
m16 net3 net3 gnd! gnd! nmos
m17 net2 net2 net10 net10 pmos
m18 net4 net4 vdd! vdd! pmos
m19 ibias ibias vdd! vdd! pmos
.end